US08629271B2
b) 2-(4-Formylphenoxy)ethyl methanesulfonate
Methanesulfonylchloride (3.3 mL) was added dropwise over 5 min to a solution of 4-(2-hydroxyethoxy)benzaldehyde (example 108, step a) (6.4 g) and triethylamine (6.4 mL) in DCM (30 mL) at 0° C. under argon. The resulting mixture was stirred at 0° C. for 10 min and then at RT for 1 h. The reaction mixture was washed with brine (2×30 mL), dried over sodium sulphate, filtered and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with 40-50% EtOAc in petroleum ether (40-60° C.) to give the subtitled compound as a viscous yellow oil. Yield 8.87 g.

reactant | Methanesulfonylchloride | 3.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(2-hydroxyethoxy)benzaldehyde | OCCOC1=CC=C(C=O)C=C1 | C9H10O3
reactant | triethylamine | 6.4 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Formylphenoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOC1=CC=C(C=C1)C=O | C10H12O5S
